US07790751B2
5-(1-Benzylpiperidin-3-yloxy)-3-(1-naphthylsulfonyl)-1H-indazole
A mixture of 4-(1-benzylpiperidin-3-yloxy)-2-(1-naphthylsulfonylmethyl)phenylamine (1.0 g, 2 mmoles) in THF and 4M HCl (10 mL), under nitrogen, at 3° C. was treated dropwise with a solution of sodium nitrite (0.16 g, 2.4 mmoles) in H2O, poured into a cold solution of saturated sodium bicarbonate and extracted with EtOAc. The extracts were combined, dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (0.7 g, 1.4 mmoles).

reactant | 4-(1-benzylpiperidin-3-yloxy)-2-(1-naphthylsulfonylmethyl)phenylamine | 2 mmoles, 1.0 g | C(C1=CC=CC=C1)N1CC(CCC1)OC1=CC(=C(C=C1)N)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H30N2O3S
reactant | sodium nitrite | 2.4 mmoles, 0.16 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | HCl | 4M, 10 mL | Cl | ClH
solvent | H2O | O | H2O
product | 5-(1-Benzylpiperidin-3-yloxy)-3-(1-naphthylsulfonyl)-1H-indazole | C(C1=CC=CC=C1)N1CC(CCC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H27N3O3S
